US05486624
0.87 g(4.5 mmol) of 4-hydroxy-3-methoxycinnamic acid and 0.18 g(4.5 mmol) of sodium hydroxide were dissolved into 40 ml of methanol. Residue obtained after distillating methanol was dissolved in 70 ml of N,N-dimethylformamide and 0.65 g (4.05 mmol) of chlorokojic acid prepared in the Reference Example was added thereto. The resulting mixture was heated with stirring for 2 hours in an oil bath of 110° C. After distillating the solvent, the residue was dissolved in 300 ml of ethyl acetate. The ethyl acetate solution was washed with 5% hydrochloric acid and distilled water, dried over magnesium sulfate, decolored with active charcoal and filtered. The filtrate was concentrated to give 0.6g(41.9%) of 2-(4-hydroxy-3-methoxy cinnamoyl)oxymethyl-5-hydroxy-4H-pyran-4-one as a solid.

reactant | 4-hydroxy-3-methoxycinnamic acid | 4.5 mmol, 0.87 g | OC1=C(C=C(C=CC(=O)O)C=C1)OC | C10H10O4
reactant | sodium hydroxide | 4.5 mmol, 0.18 g | [OH-].[Na+]
reactant | methanol | 40 ml | CO | CH4O
reactant | chlorokojic acid | 4.05 mmol, 0.65 g | C1=C(OC=C(C1=O)O)CCl | C6H5ClO3
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-hydroxy-3-methoxy cinnamoyl)oxymethyl-5-hydroxy-4H-pyran-4-one | 0.6g, 41.9% | OC1=C(C=C(C=CC(=O)OCC=2OC=C(C(C2)=O)O)C=C1)OC | C16H14O7
